US07863302B2
4-Bromomethyl-5-cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazole
To a 0° C. solution of (5-cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazol-4-yl)-methanol (0.124 g, 0.44 mmol) in dichloromethane (4 mL) is added phosphorous tribromide (0.261 g, 0.963 mmol). The ice bath is removed after 20 minutes and the reaction is allowed to stir for an additional twenty minutes at room temperature. The reaction mixture is quenched with pH 7 buffer and extracted with dichloromethane several times. The organic layers are combined, washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to yield the title compound (0.124 g, 82%). 1H-NMR (400 MHz CDCl3) δ 7.45-7.33 (m, 3H), 4.20 (s, 2H), 2.09 (m, 1H), 1.27 (m, 2H), 1.16 (m, 2H).

reactant | (5-cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazol-4-yl)-methanol | 0.44 mmol, 0.124 g | C1(CC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)CO | C13H11Cl2NO2
reactant | phosphorous tribromide | 0.963 mmol, 0.261 g | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-Bromomethyl-5-cyclopropyl-3-(2,6-dichloro-phenyl)-isoxazole | 0.124 g, 82% | BrCC=1C(=NOC1C1CC1)C1=C(C=CC=C1Cl)Cl | C13H10BrCl2NO
